US09023858B2
B) 4,4,4-trifluorobutanethioamide
A mixture of 4,4,4-trifluorobutanamide (17.9 g), 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide (51.3 g) and toluene (400 mL) was stirred at 80° C. for 3 hr. The reaction mixture was purified by aminopropylsilane-bonded silica gel column chromatography (ethyl acetate), and again purified by aminopropylsilane-bonded silica gel column chromatography (ethyl acetate/hexane) to give the title compound (14.6 g) as a solid.

reactant | 4,4,4-trifluorobutanamide | 17.9 g | FC(CCC(=O)N)(F)F | C4H6F3NO
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane 2,4-disulfide | 51.3 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 4,4,4-trifluorobutanethioamide | 14.6 g | FC(CCC(N)=S)(F)F | C4H6F3NS
